US07402581B2
(e) 3-Fluoro-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide
The compound was synthesized in an analogous way to that of Method 20b but using 3-fluoro-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide rather than N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-3,5-bis(trifluoromethyl)benzamide (yield, 68%). 1H NMR (500 MHz, CDCl3): 1.6-4.2 (cm, 16H), 6.2-7.8 (cm, 6H), 9.8 (s, 1H).

reactant | 3-fluoro-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide | FC=1C=C(C=2CCCCC2C1)C(=O)N(C)C[C@@H](CC=C)C1=CC=C(C=C1)F | C23H25F2NO
reactant | N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methyl-3,5-bis(trifluoromethyl)benzamide | FC1=CC=C(C=C1)[C@@H](CN(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)CC=C | C21H18F7NO
product | 3-Fluoro-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-N-methyl-5,6,7,8-tetrahydronaphthalene-1-carboxamide | FC=1C=C(C=2CCCCC2C1)C(=O)N(C)C[C@@H](CC=O)C1=CC=C(C=C1)F | C22H23F2NO2
